Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
hydrochlorothiazide / lisinopril / nifedipine
 
Attending: ___.
 
Chief Complaint:
Dyspnea and abnormal ECG
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
================================   
___ ADMISSION NOTE
================================   
OUTPATIENT CARDIOLOGIST:  ___, MD 
PCP:  Dr. ___ 
CC: dyspnea and abnormal ECG (new onset heart block/A.fib.??)

HISTORY OF PRESENTING ILLNESS: ___ M with hx/chronic right
pleural effusion, HFpEF diastolic heart failure, NYHA class 2,
hospitalized in ___ with NSTEMI, CHF, and RF requiring BiPAP
who presents with dyspnea on exertion and diaphoresis morning of
___. Patient states he went out for his usual morning walk,
but he felt too out of breath and couldn't walk more than a few
feet. He also noticed anorexia that was new since the prior
evening. He used his home oxygen (NC), which relieved his SOB 
and
anorexia. (He was given home oxygen after PNA at ___ 
___
___ years ago.) 

He denies any recent fevers, cough, abdominal pain, chest pain,
orthopnea, edema (takes his weight often at home, always 117 
lbs)

He was evaluated by his PCP who found patient to have a 
prolonged
PR interval (questionable afib?), 3 second pause? He was sent in
for further evaluation.

REVIEW OF SYSTEMS:  
On further review of systems, denies any prior history of 
stroke,
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the
time of surgery, myalgias, joint pains, cough, hemoptysis, black
stools or red stools. Denies exertional buttock or calf pain.
Denies recent fevers, chills or rigors. All of the other review
of systems were negative.  

In the ED initial vitals were:  
97.2 HR 118 BP 169/67 RR16 96% RA 
EKG:  wandering atrial pacemaker 
Labs/studies notable for:  
proBNP: 5983
Na 127
CK: 75  MB: 7  
Trop-T: 0.08 ___ @ 20:35) --> Trop-T: 0.07 ___
@23:44)
Hb 12.7 (13 baseline) 

CXR Moderate to large right pleural effusion with overlying
atelectasis, underlying consolidation or pulmonary lesion not
excluded. Pulmonary vascular congestion. Suggestion of possible
underlying COPD. 

Patient was given: home dose Lasix 20mg oral, extra Lasix IV 
20mg

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Diabetes  
+ Hypertension  (per patient, at home, SBPs 150)
+ Dyslipidemia  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
-carotid endarterectomy 
-seizure disorder, complex partial (per patient, ___ years ago,
fist?)
-BPH
-Macular degeneration 
-Ocular hypertension 
-SCC
-inguinal hernia
-Pancytopenia 
-Cervical spondylosis with myelopathy 
-Multiple pulmonary nodules 

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VS: T 97.2, BP 162/54 - 205/86 HR 81 RR 16 O2 SAT  94 Ra 
GENERAL: NAD sitting in chair. Oriented x3. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP approx. 20cm (near mandible at 90 degrees) 

CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills,
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. Decreased breath sounds
at R base. No crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c. 1+ pitting edema bilaterally. No femoral
bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM:
97.2 149/70 HR69 RR20 O2 Sat 97% RA 
GENERAL: NAD sitting in chair. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva 
werepink, no pallor or cyanosis of the oral mucosa. No 
xanthelasma.  
NECK: Normal JVP
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills,lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB. No 
crackles,wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/edema.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

 
Pertinent Results:
ADMISSION LABS:
Notable for proBNP-___ and Na 125

___ 08:35PM BLOOD WBC-6.2 RBC-4.19* Hgb-12.4* Hct-36.4* 
MCV-87 MCH-29.6 MCHC-34.1 RDW-13.9 RDWSD-44.2 Plt ___
___ 08:35PM BLOOD Neuts-66.8 ___ Monos-12.0 
Eos-0.6* Baso-0.3 Im ___ AbsNeut-4.12 AbsLymp-1.22 
AbsMono-0.74 AbsEos-0.04 AbsBaso-0.02
___ 08:35PM BLOOD ___ PTT-28.6 ___
___ 08:35PM BLOOD Glucose-121* UreaN-28* Creat-0.9 Na-125* 
K-5.6* Cl-87* HCO3-21* AnGap-17*
___ 08:35PM BLOOD CK(CPK)-75
___ 08:35PM BLOOD CK-MB-7 proBNP-5983*
___ 06:42AM BLOOD Calcium-8.8 Phos-3.5 Mg-2.1
___ 10:00PM BLOOD K-5.___XR ___: 
Moderate to large right pleural effusion with overlying 
atelectasis, 
underlying consolidation or pulmonary lesion not excluded.  
Pulmonary vascular congestion.  Suggestion of possible 
underlying COPD. 
  

DISCHARGE LABS: 
Notable for Na 131 

___ 07:15AM BLOOD WBC-6.2 RBC-4.29* Hgb-12.7* Hct-37.1* 
MCV-87 MCH-29.6 MCHC-34.2 RDW-13.8 RDWSD-43.3 Plt ___
___ 07:15AM BLOOD Plt ___
___ 03:05PM BLOOD Glucose-68* UreaN-28* Creat-0.9 Na-131* 
K-4.7 Cl-89* HCO3-27 AnGap-15
___ 03:05PM BLOOD Calcium-8.8 Phos-4.3 Mg-2.___ male with hx/chronic right pleural effusion, HFpEF 
diastolic
heart failure (___ class 2), NSTEMI who presents with dyspnea 
on
exertion and diaphoretic episode found to have pro-BNP >5,000 
(baseline BNP approx. 400s), a large right pleural effusion on 
CXR, and SBPs to 200's. 

On ECG and tele, patient appeared to have sick sinus syndrome. 
We discontinued the metoprolol given this syndrome. He did not 
appear to be in afib at any point. He had no evidence of 
ischemia on serial ECGs and his trops were negative. He will 
likely need 24hr outpatient Holter monitor in a few weeks to 
assess for any more pauses. He understands that the sick sinus 
syndrome will likely progress, and he is agreeable to having a 
pacemaker placed in the future. 

He also appeared to be volume overloaded on presentation. He 
received 20mg IV Lasix in addition to his home dose of 20mg oral 
Lasix in the ED with unknown urine output. On the floor, he also 
received 20mg IV Lasix in the morning and 40mg IV Lasix in the 
evening. He was about net negative 500cc over 24 hours. The 
pitting edema present on his bilateral lower extremities on 
admission resolved before discharge. On discharge, we increased 
his home dose of oral Lasix to 40mg on ___ and 
___ (continuing 20mg oral Lasix the rest of the week.) 
His BMP was not checked on the day of discharge. Please recheck 
it. 

His SBPs were elevated during his hospital stay, ranging from 
145/63 - 205/86. On discharge, we increased his amlodipine to 
10mg from 7.5mg and are hopeful that decreased afterload may 
help with the CHF. 

TRANSITIONAL ISSUES:
Weight: 50.4kg (patient wearing shoes)
Cr: 0.7
Na: 131
Hb: 12.7
Platelets: 145
proBNP on admission: >5,000

MEDICATIONS CHANGED:
amlodipine 7.5mg --> 10mg daily
oral Lasix 20mg daily --> 40mg oral lasix(M,T,W), 20mg oral 
lasix (Th, Fr, ___ 

MEDICATIONS DISCONTINUED:
metoprolol
[ ] Please repeat BMP in clinic at next visit, increased 
furosemide at discharge
[ ] Please follow up large right pleural effusion with CXR.
[ ] Please repeat BNP as outpatient, proBNP elevated while 
admitted
[ ] Patient's amlodipine was increased due to increased BPs to 
160s while admitted. Monitor for worsening ___ edema. 
[ ] Monitor sick sinus syndrome (in setting of discontinuing 
metoprolol). Patient will likely need 24hour Holter Monitoring 
in a few weeks to assess for disease progression and to catch 
any more pauses. Patient understands that he may need a 
pacemaker in the future, and he is agreeable to this procedure. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Losartan Potassium 50 mg PO BID 
3. amLODIPine 7.5 mg PO DAILY 
4. Furosemide 20 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Atorvastatin 40 mg PO QPM 
7. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest 
8. Finasteride 5 mg PO DAILY 
9. Tamsulosin 0.4 mg PO QHS 
10. Phenytoin Sodium Extended 300 mg PO DAILY 
11. FoLIC Acid 1 mg PO DAILY 
12. Betaxolol Ophth Susp  0.25% 1 DROP BOTH EYES BID 

 
Discharge Medications:
1.  Furosemide 40 mg PO 3X/WEEK (___) 
Please take 40mg oral Lasix on ___, and 
___.   
2.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*2 
3.  Furosemide 20 mg PO 4X/WEEK (___) 
Please take 20mg on ___, and ___.  

RX *furosemide 20 mg ___ tablet(s) by mouth daily Disp #*45 
Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  Betaxolol Ophth Susp  0.25% 1 DROP BOTH EYES BID  
7.  Finasteride 5 mg PO DAILY  
8.  FoLIC Acid 1 mg PO DAILY  
9.  Losartan Potassium 50 mg PO BID  
10.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest  
11.  Phenytoin Sodium Extended 300 mg PO DAILY  
12.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on chronic diastolic heart failure 

 
Discharge Condition:
Mental status: clear and coherent 
Ambulatory status: independent 

 
Discharge Instructions:
Mr. ___,

Why were you in the hospital?
=============================
You were in the hospital because you had shortness of breath 
during your normal morning walk and decreased exercise 
tolerance. You were also found to have some conduction 
abnormality that your doctor wanted to assess. 

What was done for you in the hospital?
======================================
You had blood tests that suggested fluid was backing up into 
your lungs. You also had a chest X-ray that showed fluid around 
your lungs. We gave you extra lasix to help you get rid of the 
extra fluid. We increased your home Lasix dose slightly to help 
prevent fluid re-accumulation. We noticed your blood pressures 
were consistently elevated in the hospital, and we increased 
your dose of amlodipine slightly to better control your 
pressures. We also monitored your heart to determine if there 
were any irregularities. We did not see any dangerous rhythms. 
We did notice some conduction variability in one part of your 
heart that may be contributing to the extra fluid that 
accumulated in your lungs. We stopped your metoprolol because it 
may worsen these conduction irregularities. We will have your 
primary care doctor continue to monitor. 

What should you do when you leave the hospital?
===============================================
Please follow-up with your primary care physician within one 
week of discharge. Please also take your medications exactly as 
prescribed, and continue to weigh yourself everyday. Call your 
primary care doctor if your weight increases by more than 3 lbs. 
You're in amazing shape. Keep it up! 

It was a pleasure taking care of you.

Best wishes,
Your ___ Care Team 
 
Followup Instructions:
___